US06627651B1
Into a mixed solution of methyl 7-[3-methyl-4-(2-propoxyethoxy)phenoxy]-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate (470 mg) in tetrahydrofuran (10 ml) and methanol (5 ml) was added a 1 N aqueous solution of potassium carbonate (2.9 ml), and the resulting mixture was heated at 65° C. for one day. After cooling, the reaction mixture was mixed with water, was acidified (pH=4) with 1N hydrochloric acid and was extracted with ethyl acetate. The organic layer was washed with an aqueous saturated solution of sodium chloride and was dried with magnesium sulfate. The solvent was evaporated under reduced pressure to obtain 7-[3-methyl-4-(2-propoxyethoxy)phenoxy]-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylic acid (375 mg) as a brown oily substance.

reactant | methyl 7-[3-methyl-4-(2-propoxyethoxy)phenoxy]-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate | 470 mg | CC=1C=C(OC=2C=CC3=C(C=C(CCS3(=O)=O)C(=O)OC)C2)C=CC1OCCOCCC | C24H28O7S
reactant | potassium carbonate | 2.9 ml | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | methanol | 5 ml | CO | CH4O
product | 7-[3-methyl-4-(2-propoxyethoxy)phenoxy]-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylic acid | 375 mg | CC=1C=C(OC=2C=CC3=C(C=C(CCS3(=O)=O)C(=O)O)C2)C=CC1OCCOCCC | C23H26O7S
